US05141627
1-(5-Tert-Butoxycarbonyl-2-Nitrophenoxy)-2-(5-Methyl-2-Nitrophenoxy)Ethane
A mixture of Compound 3e (239 mg, 1 mmol), 1-bromo-2-(5-methyl-2-nitrophenoxy)ethane, see G. Grynkiewicz, et al. (1985), (286 mg, 1.1 mmol), K2CO3 (83 mg, 0.6 mmol) in dry N-methylpyrrolidinone (0.75 mL) was heated at 140° C. for 10 min with protection from moisture, cooled and H2O added dropwise to precipitate the product, Compound 3f. After filtration, recrystallization from EtOH gave a white solid, m.p. 113°-114° C. Yield, 383 mg (92%).

reactant | 1-bromo-2-(5-methyl-2-nitrophenoxy)ethane | BrCCOC1=C(C=CC(=C1)C)[N+](=O)[O-] | C9H10BrNO3
reactant | K2CO3 | 1.1 mmol, 286 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | O | H2O
reactant | N-methylpyrrolidinone | 0.75 mL | CN1C(CCC1)=O | C5H9NO
product | 1-(5-Tert-Butoxycarbonyl-2-Nitrophenoxy)-2-(5-Methyl-2-Nitrophenoxy)Ethane | C(C)(C)(C)OC(=O)C=1C=CC(=C(OCCOC2=C(C=CC(=C2)C)[N+](=O)[O-])C1)[N+](=O)[O-] | C20H22N2O8
